US09079922B2
18.1. 4-((S)-3-benzyloxycarbonylamino-2-hydroxy-propyl)-piperazine-1-carboxylic acid tert-butyl ester
The compound was prepared in analogy to Example 17, step 17.1, starting from 1-Boc-piperazine (20.41 g) and [(2S)-oxiranylmethyl]-carbamic acid benzyl ester (22.75 g). A yellowish oil (16.0 g; 37% yield) was obtained.

reactant | 1-Boc-piperazine | 20.41 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | [(2S)-oxiranylmethyl]-carbamic acid benzyl ester | 22.75 g | C(C1=CC=CC=C1)OC(NC[C@@H]1OC1)=O | C11H13NO3
product | 4-((S)-3-benzyloxycarbonylamino-2-hydroxy-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 37% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C[C@H](CNC(=O)OCC1=CC=CC=C1)O | C20H31N3O5
